US09340549B2
Lithium hydroxide (0.053 g, 2.210 mmol) was added to a solution of (S)-methyl 4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-2-methylbenzoate (0.150 g, 0.442 mmol) in THF (2.5 mL), MeOH (2.50 mL), and water (2.50 mL). The mixture was heated at 50° C. for 16 hours. The reaction mixture was then cooled in an ice bath and adjusted to pH˜2 by the addition of 1 N aqueous HCl solution. Water was added, leading to the formation of a white precipitate. The precipitated material was filtered away and dried to afford (S)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-2-methylbenzoic acid (0.132 g, 0.406 mmol, 92% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.91 (s, 3H), 1.63 (s, 3H), 2.44 (s, 3H), 5.51 (s, 1H), 7.18-7.44 (m, 6H), 7.48 (d, J=2.15 Hz, 1H), 7.75 (d, J=8.70 Hz, 1H), 12.57 (br. s., 1H). m/z (ESI) 326 (M+H)+.

reactant | Lithium hydroxide | 2.210 mmol, 0.053 g | [OH-].[Li+]
reactant | (S)-methyl 4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-2-methylbenzoate | 0.442 mmol, 0.150 g | CC1([C@@H](N(C(O1)=O)C1=CC(=C(C(=O)OC)C=C1)C)C1=CC=CC=C1)C | C20H21NO4
reactant | water | 2.50 mL | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2.50 mL | CO | CH4O
product | (S)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-2-methylbenzoic acid | 0.406 mmol, 0.132 g, 92% yield | CC1([C@@H](N(C(O1)=O)C1=CC(=C(C(=O)O)C=C1)C)C1=CC=CC=C1)C | C19H19NO4
